data/oMe_Silver.jsonl
{"reaction_id": "NR-330_1-c1ccc(OC)cc1_2-S(=O)(=O)c1ccccc1_3-C1CCCCC1_4-F_5-C1CCCCC1_6-c1ccccc1C_7-c1ccccc1_8-CCCC","level": "medium","name": "Rauhut-Currier Reaction","reactants_smiles": ["c1ccc(OC)cc1C(=O)C=C(S(=O)(=O)c1ccccc1)C1CCCCC1","c1ccccc1C(=O)C(c1ccccc1C)=C(C1CCCCC1)F","P(CCCC)(CCCC)CCCC"],"products_smiles": ["c1ccc(OC)cc1C(=O)C(=C(S(=O)(=O)c1ccccc1)C1CCCCC1)C(F)(C1CCCCC1)C(c1ccccc1C)C(=O)c1ccccc1"],"conditions": "Nucleophilic Catalyst (e.g., P(n-Bu)3)","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(OC)cc1C([O-])=CC(S(=O)(=O)c1ccccc1)(C1CCCCC1)[P+](CCCC)(CCCC)CCCC","step_weight": 0,"rationale": "The phosphine's lone pair attacks the β-position of the electron-deficient alkene, favored by conjugation with the carbonyl, forming a zwitterionic intermediate stabilized by resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(OC)cc1C(=O)C(C(S(=O)(=O)c1ccccc1)(C1CCCCC1)([P+](CCCC)(CCCC)CCCC))C(F)(C1CCCCC1)C(c1ccccc1C)=C([O-])c1ccccc1","step_weight": 0,"rationale": "The nucleophilic carbon in the phosphonium enolate intermediate attacks the β-position of the second activated alkene, driven by its strong electron-withdrawing carbonyl group."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(OC)cc1C([O-])=C(C(S(=O)(=O)c1ccccc1)(C1CCCCC1)([P+](CCCC)(CCCC)CCCC))C(F)(C1CCCCC1)C(c1ccccc1C)C(=O)c1ccccc1","step_weight": 0,"rationale": "Proton transfer occurs to stabilize the alkoxide and generate a neutral intermediate, facilitated by the basicity of the alkoxide and the acidity of nearby protons."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(OC)cc1C(=O)C(=C(S(=O)(=O)c1ccccc1)C1CCCCC1)C(F)(C1CCCCC1)C(c1ccccc1C)C(=O)c1ccccc1","step_weight": 0,"rationale": "Elimination of the phosphine regenerates the catalyst, driven by formation of a conjugated enone system, which is thermodynamically favored due to extended π-delocalization."}],"description": "A nucleophilic phosphine catalyst activates an electron-deficient alkene toward conjugate addition, enabling C–C bond formation between two Michael acceptors. Subsequent proton transfer and elimination regenerate the catalyst, yielding the conjugated enone product under mild conditions with high atom economy."}
{"reaction_id": "NR-239_1-C1CCCCC1_2-OC(C)(C)C_3-C1CCCCC1_4-c1ccccc1","level": "medium","name": "Stetter Reaction","reactants_smiles": ["C1CCCCC1C(=O)[H]","C(C1CCCCC1)=C(c1ccccc1)C(=O)OC(C)(C)C","[C-]#N"],"products_smiles": ["OC(C)(C)CC(=O)C(c1ccccc1)C(C1CCCCC1)C(=O)C1CCCCC1"],"conditions": "","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CCCCC1C([O-])C#N","step_weight": 0,"rationale": "Cyanide attacks the electrophilic carbonyl carbon of the aldehyde due to its strong nucleophilicity and the polarization of the C=O bond, forming a stabilized cyanohydrin anion."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1CCCCC1[C-](O)C#N","step_weight": 0,"rationale": "Proton transfer occurs to generate the Breslow-type intermediate, driven by stabilization through resonance between the alkoxide and adjacent carbon."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CCCCC1C(O)(C#N)C(C1CCCCC1)C(c1ccccc1)=C([O-])OC(C)(C)C","step_weight": 0,"rationale": "The nucleophilic Breslow intermediate attacks the β-carbon of the α,β-unsaturated carbonyl via conjugate addition, favored by resonance stabilization of the resulting enolate."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1CCCCC1C([O-])(C#N)C(C1CCCCC1)C(c1ccccc1)C(=O)OC(C)(C)C","step_weight": 0,"rationale": "Proton transfer converts the enolate into a neutral alcohol, driven by the high basicity of the enolate and the availability of proton donors in the medium."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "OC(C)(C)CC(=O)C(c1ccccc1)C(C1CCCCC1)C(=O)C1CCCCC1","step_weight": 0,"rationale": "Elimination of cyanide regenerates the catalyst, favored by the formation of a conjugated carbonyl system and the good leaving group ability of cyanide under these conditions."}],"description": "In the Stetter reaction, a nucleophilic catalyst such as cyanide activates the aldehyde to form a Breslow-type intermediate, which then performs a Michael addition to an α,β-unsaturated carbonyl. Subsequent proton transfers and catalyst elimination yield the thermodynamically stable 1,4-dicarbonyl product."}
